US09290451B2
a) 5-Bromo-6-chloro-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide
The title compound was synthesized in analogy to Example 1, using 5-bromo-6-chloropicolinic acid (CAN 959958-25-9) and (2S)-2-amino-4-methyl-pentanamide (CAN 687-51-4) as starting materials, MS (EI): m/e=350.0 [M+H]+.

reactant | 5-bromo-6-chloropicolinic acid | BrC=1C=CC(=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | (2S)-2-amino-4-methyl-pentanamide | N[C@H](C(=O)N)CC(C)C | C6H14N2O
product | 5-Bromo-6-chloro-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide | C(N)(=O)[C@H](CC(C)C)NC(=O)C1=NC(=C(C=C1)Br)Cl | C12H15BrClN3O2
